US06531502B1
Tetrakis(triphenylphosphine)palladium(0) (0.02 g, 0.02 mmol) was added to a solution of 3-(3-bromo-4,5-dimethoxybenzylidene)-1,3-dihydroindol-2-one (0.20 g, 0.56 mmol) in toluene (1 ml) and ethanol (1 ml), followed by addition of 2M aqueous sodium carbonate (1.1 ml, 2.2 mmol). To this mixture was added 2-methoxyphenylboronic acid (0.09 g, 0.62 mmol), and the mixture was held at 100° C. in a sealed tube for 12 hours. The reaction mixture was added to water (50 ml) and extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with saturated aqueous sodium bicarbonate (50 ml) and brine (50 ml). The organic layer was dried over magnesium sulfate and concentrated. Chromatography (silica, 30-40% ethyl acetate/hexanes) afforded 0.14 g (64%) of 3-(4,5,2′-trimethoxybiphenyl-2-ylmethylene)-1,3-dihydroindol-2-one as an orange solid.

reactant | 3-(3-bromo-4,5-dimethoxybenzylidene)-1,3-dihydroindol-2-one | 0.56 mmol, 0.20 g | BrC=1C=C(C=C2C(NC3=CC=CC=C23)=O)C=C(C1OC)OC | C17H14BrNO3
reactant | sodium carbonate | 2.2 mmol, 2M, 1.1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-methoxyphenylboronic acid | 0.62 mmol, 0.09 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | water | 50 ml | O | H2O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4,5,2′-trimethoxybiphenyl-2-ylmethylene)-1,3-dihydroindol-2-one | 0.14 g, 64% | COC1=CC(=C(C=C1OC)C1=C(C=CC=C1)OC)C=C1C(NC2=CC=CC=C12)=O | C24H21NO4
